US05686622
10 ml of methanol are added slowly, under an inert atmosphere, to a round-bottomed flask containing 0.3 g of (2S,4S,5R)-2-tert-butoxycarbonyl-3-{2-[3-(3-benzyloxycarbonylmethylphenyl)ureido]-acetyl}-4-phenyl-5-thiazolidinecarboxylic acid, 0.18 g of ammonium formate and 0.3 g of 10% palladium-on-charcoal. The reaction medium is heated at reflux for 1 hour and then cooled to a temperature in the region of 25° C. The catalyst is separated out by filtration and the filtrate is concentrated to dryness under reduced pressure at 40° C. The residue obtained is dissolved in 9.4 ml of aqueous 0.1N sodium hydroxide solution. The aqueous solution obtained is filtered and brought to pH 2 by addition of aqueous 0.1N hydrochloric acid solution. The precipitated product is isolated by filtration, washed with twice 5 ml of water and air-dried. 0.19 g of 3-{3-[2-((2S,4S,5R)-2-tert-butoxycarbonyl-5-carboxy-4-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenylacetic acid is thus obtained in the form of a white solid melting at 130° C., [α]D25 =-3.9°±1.0 (c=0.407; MeOH); 1H NMR (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 373 K, δ in ppm): 1.49 (s, 9H: CH3 of the tert-butyl); 3.49 (s, 2H: ArCH2COO); 3.65 and 4.03 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.19 (d, J=3.5 Hz, 1H: H at C5 of the ring); 5.70 (s, 1H: H at C2 of the ring); 5.76 (d, J=3.5 Hz, 1H: H at C4 of the ring); 6.83 (broad d, J=7.5 Hz, 1H: aromatic H (H ortho to the CH2)); 7.14 (t, J=7.5 Hz, 1H: aromatic H (H meta to the CH2); from 7.20 to 7.50 (mt, 5H: aromatic H); 7.72 (broad d, J=7.5 Hz, 2H: H ortho to the phenyl).

reactant | methanol | 10 ml | CO | CH4O
reactant | (2S,4S,5R)-2-tert-butoxycarbonyl-3-{2-[3-(3-benzyloxycarbonylmethylphenyl)ureido]-acetyl}-4-phenyl-5-thiazolidinecarboxylic acid | 0.3 g | C(C)(C)(C)OC(=O)[C@@H]1S[C@H]([C@@H](N1C(CNC(=O)NC1=CC(=CC=C1)CC(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)C(=O)O | C33H35N3O8S
reactant | ammonium formate | 0.18 g | C(=O)[O-].[NH4+]
solvent | sodium hydroxide | 0.1N | [OH-].[Na+]
catalyst | palladium-on-charcoal | 0.3 g | [Pd] | Pd
product | 3-{3-[2-((2S,4S,5R)-2-tert-butoxycarbonyl-5-carboxy-4-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}phenylacetic acid | 0.19 g | C(C)(C)(C)OC(=O)[C@@H]1S[C@H]([C@@H](N1C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O)C1=CC=CC=C1)C(=O)O | C26H29N3O8S
